US08486979B2
5-(benzo[d]thiazol-5-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to Method C using benzo[d]thiazole-5-carboxylic acid (Apollo) and N′-hydroxynicotinimidamide (Tyger). 1H NMR (300 MHz, DMSO-d6) δ 7.64-7.73 (m, 1 H), 8.35 (s, 1 H), 8.36 (s, 1 H), 8.48 (dt, J=8.1, 2.0, 1.7 Hz, 1 H), 8.83 (dd, J=4.7, 1.7 Hz, 1 H), 9.17 (t, J=1.2 Hz, 1 H), 9.29 (dd, J=2.2, 0.8 Hz, 1 H), 9.66 (s, 1 H) ppm; MS (DCI/NH3) m/z 281 (M+H)+.

reactant | benzo[d]thiazole-5-carboxylic acid | S1C=NC2=C1C=CC(=C2)C(=O)O | C8H5NO2S
reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | NH3 | N | H3N
product | 5-(benzo[d]thiazol-5-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | S1C=NC2=C1C=CC(=C2)C2=NC(=NO2)C=2C=NC=CC2 | C14H8N4OS
